US09079889B2
To a solution of 4-(3-nitropyridin-4-yl)cyclohex-3-enol (1.0 equiv.) and DIPEA (2.5 equiv.) in CH2Cl2 (0.15 M) was added methanesulfonyl chloride (1.8 equiv.) at 0° C. The reaction mixture was stirred at 0° C. for 1 hr. The reaction mixture was diluted with ethyl acetate (200 mL), and washed with sat NaCl (30 mL). The organic was dried MgSO4, filtered and concentrated to give 4-(3-nitropyridin-4-yl)cyclohex-3-enyl methanesulfonate (93%). The residue was used in the next step without further purification. LC/MS (m/z): MH+=299.0, Rt=0.70

reactant | 4-(3-nitropyridin-4-yl)cyclohex-3-enol | 1.0 equiv. | [N+](=O)([O-])C=1C=NC=CC1C1=CCC(CC1)O | C11H12N2O3
reactant | DIPEA | 2.5 equiv. | CCN(C(C)C)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 1.8 equiv. | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 0.15 M | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 4-(3-nitropyridin-4-yl)cyclohex-3-enyl methanesulfonate | 93% | CS(=O)(=O)OC1CC=C(CC1)C1=C(C=NC=C1)[N+](=O)[O-] | C12H14N2O5S
